Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
vancomycin / Bactrim / flurouracil
 
Attending: ___
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
Coronary Angiography with Percutaneous Coronary Intervention 
(___)

 
History of Present Illness:
HISTORY OF PRESENT ILLNESS:  
___ Pediatric immunologist w/ ___ Raynaud's and Brugada's
Pattern, GERD who presented to the ED following 2d worsening DOE
and new chest pain. Patient was in his usual state of health
until 2 days ago when he noticed DOE climbing ___ flights of
stairs (which he routinely does). He otherwise felt fatigued. At
2AM on ___, patient awoke with new ___ L sided back/shoulder
pain. He took 1000mg ASA and went back to sleep until 7AM. Later
this AM, patient had recurrence of shoulder pain with associated
L anterior chest pain. He denies SOB but states he feels like he
has difficulty taking air in with deep breaths. 

Patient was seen at his PCP office on day of admission with
reported normal EKG and vitals. However, he was referred to the
ED given on-going chest pain. 

In the ED, initial VS were temp 97.8, HR 53, BP 104/69, RR 18,
99%RA. 
Labs showed  WBC 10.5, Hb 14.0, Cr 0.9, trop 0.37 -> 0.57, CK-MB
98 -> 82. 
Imaging showed CTA with no PE and no aortic dissection.  
Received 1L NS, heparin gtt, nitro gtt.  
Cardiology was consulted. EKG showed ST segment flattening
initially then repeat EKG showed lateral ST depressions,
submilimeter elevation in lead III. Planned first case for cath
in AM unless chest pain continues despite nitro gtt. 
Transfer VS were temp 98.0, HR 50, BP 105/64, RR 17, 97%RA.   

On arrival to the floor, patient reports the above history. He
denies any palpitations, ___ edema, changes in weight. No
fevers/chills/cough, abd pain, N/V.   

 
Past Medical History:
GERD
GLAUCOMA
HLD
 
Social History:
___
Family History:
No family history of MI, CHF.
 
Physical Exam:
Admission Physical Exam
===========================
VS:  97.6 BP 99/49  HR54  RR18 97 ra 
GENERAL: Middle-aged male, sitting up in bed in NAD  
HEENT: EOMI, PERRL, anicteric sclera, pink conjunctiva, MMM
NECK: supple, no LAD, no elevated JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, no increased work of
breathing 
ABDOMEN: +BS, soft, nondistended, nontender 
EXTREMITIES: warm, well perfused, no edema
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: no rashes  

Discharge Physical Exam
===========================
Vitals: 98.5, 119/77, 62, 20, 93% RA 
GENERAL: AAOx3, in no apparent distress  
HEENT: EOMI, MMM
NECK: no elevated JVD  
HEART: RRR, S1/S2, I/VI systolic murmur heard best at the ___.
No gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi
ABDOMEN: soft, nondistended, nontender 
EXTREMITIES: warm, well perfused, no edema
PULSES: 2+ DP pulses bilaterally

 
Pertinent Results:
Admission Labs
=================
___ 04:09PM BLOOD WBC-10.5* RBC-4.90 Hgb-14.0 Hct-43.0 
MCV-88 MCH-28.6 MCHC-32.6 RDW-13.4 RDWSD-43.5 Plt ___
___ 04:09PM BLOOD Neuts-77.1* Lymphs-18.1* Monos-3.4* 
Eos-0.7* Baso-0.4 Im ___ AbsNeut-8.12* AbsLymp-1.91 
AbsMono-0.36 AbsEos-0.07 AbsBaso-0.04
___ 04:09PM BLOOD Plt ___
___ 04:09PM BLOOD Glucose-98 UreaN-16 Creat-0.9 Na-143 
K-4.2 Cl-105 HCO3-23 AnGap-15
___ 08:25PM BLOOD CK(CPK)-731*
___ 04:09PM BLOOD CK(CPK)-838*

___ 08:25PM BLOOD cTropnT-0.57*
___ 08:25PM BLOOD CK-MB-82* MB Indx-11.2*
___ 04:09PM BLOOD cTropnT-0.37*
___ 04:09PM BLOOD CK-MB-98* MB Indx-11.7*
___ 04:09PM BLOOD Calcium-9.7 Phos-3.2 Mg-2.0
___ 04:22PM BLOOD Lactate-1.4

Discharge Labs
================

___ 03:45AM BLOOD WBC-8.9 RBC-3.91* Hgb-11.3* Hct-34.1* 
MCV-87 MCH-28.9 MCHC-33.1 RDW-13.5 RDWSD-43.1 Plt ___
___ 03:45AM BLOOD Plt ___
___ 03:45AM BLOOD Glucose-101* UreaN-8 Creat-0.9 Na-144 
K-4.1 Cl-107 HCO3-23 AnGap-14
___ 03:45AM BLOOD CK-MB-35* cTropnT-2.16*
___ 03:45AM BLOOD Calcium-8.2* Phos-3.6 Mg-1.8

CTA Chest ___.  No evidence of pulmonary embolism or aortic abnormality. 
2.  Left upper lobe and right lower lobe ground-glass opacities 
are noted, 
potentially atelectasis, infection could be considered. 

Cardiac Cath ___
Dominance: Right
* Left Main Coronary Artery
The LMCA is. normal
* Left Anterior Descending
The LAD has minor irregularities
* Circumflex
The Circumflex had a >95% mid stenosis
* Right Coronary Artery
The RCA had a long segment of mid disease with focal 80% 
stenosis
Interventional Details
The left main was engaged with a ___ Fr AL2 guide (XB3.5 would not 
engage).A Prowater wire was
advanced into the distal LCX. The mid lesion was dilated with a 
2.5 balloon and stented with a 2.5x18
Onyx DES at 14 atm with no residual, normal flow.
The RCA was then engaged with a ___ Fr JR4 guide. A Prowater wire 
was advanced into the distal RCA.
The focal lesion was dfilated with a 2.0 balloon. The entire 
diseased segment was then stented with a
3.0x38 Onyx ___ to 3.0 mm with a NC balloon to 18 
atm. Tjhere was no residual, normal
flow.
Impressions:
Successful DES of LCX and RCA

Echo ___
The left atrium is elongated. No atrial septal defect is seen by 
2D or color Doppler. Left ventricular wall thicknesses are 
normal. The left ventricular cavity size is normal. There is 
mild regional left ventricular systolic dysfunction with 
infero-lateral hypokinesis. No masses or thrombi are seen in the 
left ventricle. There is no ventricular septal defect. Right 
ventricular chamber size and free wall motion are normal. The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. The aortic valve leaflets (3) are mildly thickened but 
aortic stenosis is not present. No aortic regurgitation is seen. 
The mitral valve appears structurally normal with trivial mitral 
regurgitation. The estimated pulmonary artery systolic pressure 
is normal. There is no pericardial effusion.  
 
Brief Hospital Course:
Mr. ___ is a ___ year old pediatric immunologist with a past 
medical history of HLD, Raynaud's, Brugada's Pattern, and GERD 
who presented to the ED following 2 days of worsening DOE and 
new chest pain found to have ST segment depression in the 
lateral leads on EKG with elevated troponin and CK-MB consistent 
with NSTEMI. Cardiac catheterization revealed that the 
circumflex had a >95% mid stenosis and RCA had a long segment of 
mid disease with focal 80% stenosis; 2 DES were placed. The 
patient was started ticagrelor 90 mg BID and Aspirin 81 mg QD. 
Home dose of rosuvastatin 10 mg was increased to 20 mg QPM. He 
was not started on beta-blockade given mild bradycardia 
post-cath that resolved at the time of discharge. TTE prior to 
discharge showed preserved EF at 60%.

TRANSITIONAL ISSUES:
====================
- Please see any changes or additions to medication.
- Please start patient on metoprolol succinate if heart rate 
allows given mortality benefit.
- Ensure follow-up with cardiology ___ weeks following 
discharge.
# CODE: Full (confirmed) 
# CONTACT: ___ (wife) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Esomeprazole 40 MG Other DAILY 
2. Rosuvastatin Calcium 10 mg PO QPM 
3. Latanoprost 0.005% Ophth. Soln. 1 DROP LEFT EYE QHS 
4. Cyanocobalamin 1000 mcg IM/SC QMONTH 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0 
2.  TiCAGRELOR 90 mg PO BID to prevent stent thrombosis 
RX *ticagrelor [Brilinta] 90 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*3 
3.  Rosuvastatin Calcium 20 mg PO QPM 
RX *rosuvastatin 20 mg 1 tablet(s) by mouth at night Disp #*30 
Tablet Refills:*0 
4.  Cyanocobalamin 1000 mcg IM/SC QMONTH  
5.  Esomeprazole 40 MG Other DAILY  
6.  Latanoprost 0.005% Ophth. Soln. 1 DROP LEFT EYE QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
==================
NSTEMI
PERCUTANEOUS CONONARY INTERVENTION w/ 2 DRUG ELUTING STENTS

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure to care for you at the ___ 
___. You came to the hospital because you developed 
chest pain and shortness of breath. You were concerned by these 
symptoms and saw your primary care physician who recommended 
that you receive further evaluation at the hospital. We were 
concerned that this chest pain was related to your heart. We 
obtained blood tests, EKGs, and a cardiac catheterization to 
view the blood vessels surrounding your heart. We found that 
your symptoms were related to severe narrowing of 2 blood 
vessels supplying your heart. We placed 2 stents to relieve the 
narrowing and keep these blood vessels open. We started you on 
aspirin in combination with another blood thinning medication to 
ensure that the stents remain open. We also started increased 
the dose of your cholesterol lowering medication (rosuvastatin). 


Please be sure to follow up with your cardiologist and primary 
care physician as listed below and to take all of your home 
medications. Do not stop the Ticagrelor (Brilinta) without prior 
discussion with your cardiologist.

We wish you all the best!
-Your ___ care team
 
Followup Instructions:
___